US05514691
4-Fluoro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide was prepared in the same manner as described in Example 5 from 5-amino-4-bromo-3-methylisoxazole and 4-fluorobenzenesulfonyl chloride in 71% yield. Purification was achieved by recrystallization from ethyl acetate/hexanes to give a crystalline solid, m.p. 142°-144° C.

reactant | 5-amino-4-bromo-3-methylisoxazole | NC1=C(C(=NO1)C)Br | C4H5BrN2O
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
product | 4-Fluoro-N-(4-bromo-3-methyl-5-isoxazolyl)benzenesulfonamide | 71% yield | FC1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NO1)C)Br | C10H8BrFN2O3S
